US05643878
33b) 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-fluorophenyl)-2(R)-(p-trifluoromethylphenylmethyl)-hexanoic acid
Analogously to Example 1 i), 1.05 g of 5(S)-[1(S)-(Boc-amino)-2-(p-fluorophenyl)ethyl]-3(R)-(p-trifluoromethylphenylmethyl)-dihydrofuran-2-(3H)-one in 35.5 ml of dimethoxyethane and 17.9 ml of water are hydrolysed with 8.7 ml of 1 M lithium hydroxide solution to form the title compound which is used further directly.

reactant | 5(S)-[1(S)-(Boc-amino)-2-(p-fluorophenyl)ethyl]-3(R)-(p-trifluoromethylphenylmethyl)-dihydrofuran-2-(3H)-one | 1.05 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)F)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)C(F)(F)F | C25H27F4NO4
reactant | lithium hydroxide | 1 M, 8.7 ml | [OH-].[Li+]
solvent | dimethoxyethane | 35.5 ml | C(OC)COC | C4H10O2
solvent | water | 17.9 ml | O | H2O
product | 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-fluorophenyl)-2(R)-(p-trifluoromethylphenylmethyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)C(F)(F)F)O)CC1=CC=C(C=C1)F | C25H29F4NO5
